US07902375B2
Step 1: [2-(1-Dimethylamino-ethylidenethiocarbamoyl)-ethyl]-carbamic acid tert-butyl ester
Dimethylacetamide dimethylacetal (1.56 g, 11.7 mmol) is added to a stirred solution of (2-thiocarbamoyl-ethyl)-carbamic acid tert-butyl ester (1.0 g, 4.9 mmol) in DCM (50 ml). The reaction is stirred for 24 hours at room temperature followed by removal of the solvent. The residue is purified by chromatography on silica, eluting with ethyl acetate-diethyl ether (1:1) to give the titled compound as a yellow oil.

reactant | Dimethylacetamide dimethylacetal | 11.7 mmol, 1.56 g | COC(C)(N(C)C)OC | C6H15NO2
reactant | (2-thiocarbamoyl-ethyl)-carbamic acid tert-butyl ester | 4.9 mmol, 1.0 g | C(C)(C)(C)OC(NCCC(N)=S)=O | C8H16N2O2S
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | [2-(1-Dimethylamino-ethylidenethiocarbamoyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(N=C(C)N(C)C)=S)=O | C12H23N3O2S
